US04694109
2,2'-Bis(diisobutylphosphinomethyl)-1,1'-biphenyl
Diisobutylphosphine (1.66 grams, 11.37 mmol) was dissolved in THF (25 ml) under nitrogen and cooled with a dry ice/acetone bath. n-Butyllithium (7.11 ml of a 1.6M solution in hexane, 11.37 mmol) was added dropwise to the stirring solution which was then allowed to stir for 1 hour in the cold bath. 2,2'-Bis(bromomethyl)-1,1'-biphenyl (1.89 grams, 5.55 mmol) in THF (10 ml) was added dropwise at -70° C. The solution was allowed to stir overnight at room temperature and was then heated at reflux for 1 hour. Saturated aqueous NH4Cl was added to the solution at room temperature. Diethyl ether was added and the layers were separated in a separatory funnel. The aqueous layer was extracted twice with diethyl ether, and the combined organic solution was then washed twice with water. The solvent was removed on a steam bath under a stream of nitrogen. The oily residue was then placed on a Kugelrohr distillation apparatus to remove low boiling material at about 175° C. and 1 mm Hg leaving 1.88 grams (72% yield) of a thick orange glassy product. 1H NMR (CDCl3): δ0.65-1.67 (complex, 36H, aliphatic); 2.42 (s, 4H, benzylic); 6.67-7.30 (complex, 8H aromatic). 31P NMR (CDCl3): δ+31.

reactant | Diisobutylphosphine | 11.37 mmol, 1.66 grams | C(C(C)C)PCC(C)C | C8H19P
reactant | n-Butyllithium | C(CCC)[Li]
reactant | 2,2'-Bis(bromomethyl)-1,1'-biphenyl | 5.55 mmol, 1.89 grams | BrCC1=C(C=CC=C1)C1=C(C=CC=C1)CBr | C14H12Br2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 2,2'-Bis(diisobutylphosphinomethyl)-1,1'-biphenyl | 1.88 grams, 72% yield | C(C(C)C)P(CC(C)C)CC1=C(C=CC=C1)C1=C(C=CC=C1)CP(CC(C)C)CC(C)C | C30H48P2
